US09302991B2
<Step-3>:methyl 5-(acetoxymethyl)-6-(2,2,2-trifluoroethoxy)nicotinate
A mixture of methyl 5-(bromomethyl)-6-(2,2,2-trifluoroethoxy)nicotinate (0.68 g, 2.07 mmol, Step-2) and sodium acetate (0.51 g, 6.20 mmol) in DMA (10 mL) is stirred at 130° C. for 2 hours. After cooling to room temperature, the reaction mixture is poured into water, extracted with ethyl acetate and dried over sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-Hexane/ethyl acetate (6:1) to give 0.35 g (56% yield) of the title compound as colorless oil.

reactant | methyl 5-(bromomethyl)-6-(2,2,2-trifluoroethoxy)nicotinate | 2.07 mmol, 0.68 g | BrCC=1C(=NC=C(C(=O)OC)C1)OCC(F)(F)F | C10H9BrF3NO3
reactant | sodium acetate | 6.20 mmol, 0.51 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | methyl 5-(acetoxymethyl)-6-(2,2,2-trifluoroethoxy)nicotinate | 0.35 g, 56% yield | C(C)(=O)OCC=1C(=NC=C(C(=O)OC)C1)OCC(F)(F)F | C12H12F3NO5
